US08633207B2
To 2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-nitroquinazolin-4-ol (312 mg, 0.92 mmol) were added phosphoryl tribromide (1.66 g), toluene (3 mL), and DIEA (0.325 mL, 1.85 mmol), and the mixture was heated at 90° C. for 0.75 h. The mixture was allowed to cool and was partitioned between EtOAc and a saturated aq sodium bicarbonate. The organic layer was dried over sodium sulfate and concentrated. To the residue was added a solution of 5-methyl-1H-pyrazol-3-amine (220 mg, 2.3 mmol) in DMF (4 mL) and the mixture was stirred at rt for 0.5 h. Water was added and the resulting precipitate was collected by filtration and dried on the funnel to give a crude solid (406 mg, quantitative). An analytical sample was prepared by purification with preparative HPLC (Varian diphenyl reverse phase column, eluting with a gradient of solvent B=0.05% HOAc/ACN and solvent A=0.05% HOAc/H2O) to afford 2-(difluoro(5-fluoropyridin-2-yl)methyl)-N-(5-methyl-1H-pyrazol-3-yl)-8-nitroquinazolin-4-amine. 1H NMR (300 MHz, DMSO-d6) δ ppm 2.18 (s, 3H) 5.95 (s, 1H) 7.78 (t, J=8.01 Hz, 1H) 7.95-8.07 (m, 2H) 8.38 (d, J=7.54 Hz, 1H) 8.67 (s, 1H) 8.94 (d, J=8.10 Hz, 1H) 11.18 (br s, 1H) 12.25 (br s, 1H); LC-MS (ESI) m/z 416 (M+H)+.

reactant | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-nitroquinazolin-4-ol | 0.92 mmol, 312 mg | FC(C1=NC2=C(C=CC=C2C(=N1)O)[N+](=O)[O-])(C1=NC=C(C=C1)F)F | C14H7F3N4O3
reactant | phosphoryl tribromide | 1.66 g | P(=O)(Br)(Br)Br | Br3OP
reactant | DIEA | 1.85 mmol, 0.325 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-methyl-1H-pyrazol-3-amine | 2.3 mmol, 220 mg | CC1=CC(=NN1)N | C4H7N3
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-N-(5-methyl-1H-pyrazol-3-yl)-8-nitroquinazolin-4-amine | FC(C1=NC2=C(C=CC=C2C(=N1)NC1=NNC(=C1)C)[N+](=O)[O-])(C1=NC=C(C=C1)F)F | C18H12F3N7O2
